US05977400
To an oven-dried flask was added potassium ethyl malonate (3.66 g, 21.5 mmol) and freshly distilled acetonitrile (70 mL). The mixture was cooled to 10° C. to 15° C. and stirred under an atmosphere of nitrogen and to it added anhydrous magnesium chloride (2.44 g, 25.7 mmol) and triethylamine (2.05 g, 20.3 mmol). The mixture was then stirred at room temperature under nitrogen for 2.5 hours. The resultant white slurry was recooled to 0° C. and 2,4,5-trifluorobenzoyl chloride was added over a period of 15 minutes, followed by more triethylamine (0.23 g, 2.3 mmol). The mixture was then stirred at room temperature overnight under nitrogen. Acetonitrile was then removed in vacuo and toluene (30 mL) was added. The mixture was reconcentrated and more toluene (60 mL) then added. Hydrochloric acid (1.5 M, 40 mL) was cautiously added, ensuring that the temperature did not exceed 25° C., and the aqueous layer separated. The organic fraction was washed with 1.5 M HCl (2×25 mL) and water (2×25 mL), dried over MgSO4, and solvent removed in vacuo to afford 3-oxo-3-(2,4,5-trifluoro-phenyl)-propionic acid ethyl ester as a pale orange solid (2.35 g, 9.55 mmol, 94%).

reactant | potassium ethyl malonate | 21.5 mmol, 3.66 g | C(CC(=O)[O-])(=O)OCC.[K+]
reactant | magnesium chloride | 25.7 mmol, 2.44 g | [Cl-].[Mg+2].[Cl-]
reactant | triethylamine | 20.3 mmol, 2.05 g | C(C)N(CC)CC | C6H15N
reactant | 2,4,5-trifluorobenzoyl chloride | FC1=C(C(=O)Cl)C=C(C(=C1)F)F | C7H2ClF3O
reactant | triethylamine | 2.3 mmol, 0.23 g | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 70 mL | C(C)#N | C2H3N
product | 3-oxo-3-(2,4,5-trifluoro-phenyl)-propionic acid ethyl ester | 9.55 mmol, 2.35 g, 94% | C(C)OC(CC(C1=C(C=C(C(=C1)F)F)F)=O)=O | C11H9F3O3
